US07312330B2
B. (2,3-Dihydro-benzo[1,4]dioxin-6-yl)-(7-m-tolyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl)-amine
To 2 ml of Dioxane was added 10 mol % of palladium(II)acetate (12 mg) and 20 mol % rac-BINAP (58 mg). After stirring for 3 hours, 3-bromotoluene was added (0.064 ml, 0.53 mmol), cesium carbonate (682 mg, 2.12 mmol), (2,3-Dihydro-benzo[1,4]dioxin-6-yl)-(5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl)-amine (150 mg, 0.53 mmol) and activated molecular sieves (340 mg). The mixture was sonicated for 10 minutes and heated at 160° C. for 3 hours in a sealed tube via microwave (Personal Chemistry Microwave (Smith Creator)). After completion, the mixture was filtered through celite, evaporated and purified by flash chromatography using a 0-100% gradient of ethyl acetate/hexanes to give the desired product as a white solid (15 mg).

reactant | rac-BINAP | 58 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 3-bromotoluene | BrC=1C=C(C=CC1)C | C7H7Br
reactant | cesium carbonate | 2.12 mmol, 682 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (2,3-Dihydro-benzo[1,4]dioxin-6-yl)-(5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl)-amine | 0.53 mmol, 150 mg | O1CCOC2=C1C=CC(=C2)NC=2C1=C(N=CN2)CNCC1 | C15H16N4O2
catalyst | palladium(II)acetate | 12 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (2,3-Dihydro-benzo[1,4]dioxin-6-yl)-(7-m-tolyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl)-amine | 15 mg | O1CCOC2=C1C=CC(=C2)NC=2C1=C(N=CN2)CN(CC1)C=1C=C(C=CC1)C | C22H22N4O2
